US09145411B2
Step 2: (((3-(2-Chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamoyl)oxy)-methyl acetate
To a 100 mL round bottom flask, chloromethyl(3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamate (1.2 g, 0.0028 mol) and acetic acid (20 mL) were added. To the reaction mixture was added mercuric acetate (0.968 g, 0.0031 mol) and the mixture was stirred at room temperature for 4 hours. The reaction mixture was diluted with chloroform and washed with water. The organic layer was washed with brine, dried over anhydrous sodium sulphate and evaporated under reduced pressure to provide the title compound as a yellow solid (1.1 g, 87%). 1H NMR (400 MHz, DMSO-d6): δ 10.25 (br s, 1H), 9.05 (d, J=1.6 Hz, 1H), 8.19 (d, J=1.2 Hz, 1H), 7.93 (s, 1H), 7.59-7.48 (m, 3H), 5.77 (s, 2H), 4.64-3.98 (br s, 4H), 3.81 (t, J=4.4 Hz, 4H), 2.10 (s, 3H). LC-MS (ESI): Calculated mass: 457.12; Observed mass [M+H]+: 457.9 (RT: 1.57 min).

reactant | chloromethyl(3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamate | 0.0028 mol, 1.2 g | ClCOC(NC1=CC(=CC=C1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl)=O | C19H17Cl2N5O3
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (((3-(2-Chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamoyl)oxy)-methyl acetate | 1.1 g, 87% | C(C)(=O)OCOC(NC1=CC(=CC=C1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl)=O | C21H20ClN5O5
